US09446130B2
To a stirred solution of N-((3-chloropyrazin-2-yl)methyl)-3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazine-7(8H)-carboxamide (1.25 g, 3.46 mmol) in Acetonitrile (10 ml) was added pyridine (2.73 g, 34.6 mmol) and finally phosphoryl trichloride (2.65 g, 17.28 mmol). The resulting reaction mixture was then stirred at room temperature for 15 hours overnight. The reaction was quenched by slowly addition of NaHCO3 and extracted with ethyl acetate (3×). The organic layer was dried by MgSO4, filtered and concentrated. The residue was purified by MPLC (24 g silica gel, 20 to 60% ethyl acetate in hexaes, 18 CV) to afford white solid product 7-(8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine (550 mg, 1.600 mmol, 46.3% yield). LC-MS: C12H9ClF3N7,343. found 344.11 [M+H]+, RT=1.22 min.

reactant | N-((3-chloropyrazin-2-yl)methyl)-3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazine-7(8H)-carboxamide | 3.46 mmol, 1.25 g | ClC=1C(=NC=CN1)CNC(=O)N1CC=2N(CC1)C(=NN2)C(F)(F)F | C12H11ClF3N7O
reactant | pyridine | 34.6 mmol, 2.73 g | N1=CC=CC=C1 | C5H5N
reactant | phosphoryl trichloride | 17.28 mmol, 2.65 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | Acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-(8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 1.600 mmol, 550 mg, 46.3% yield | ClC=1C=2N(C=CN1)C(=NC2)N2CC=1N(CC2)C(=NN1)C(F)(F)F | C12H9ClF3N7
